US05753654
2-Benzylamino-2-methylthio-1,1-ethylenedicarbonitrile
To a solution of malononitrile (1.21 g, 18.3 mmol) in DMF (40 ml) was added under ice-cooling sodium hydride (0.77 g, 19.2 mmol). After stirring for one hour, benzyl isothiocyanate (2.73 g, 18.3 mmol) was added dropwise. After stirring under ice-cooling for 1.5 hours, methyl iodide (2.60 g, 18.3 mmol) was added dropwise. After stirring at room temperature for 15 hours, water (400 ml) was added to the reaction mixture, which was then extracted with ethyl acetate (100 ml×2). The organic layer was washed with a saturated aqueous solution of sodium chloride, dried over sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give the title compound as a yellow oily substance (2.94 g) from the fraction from hexane-ethyl acetate (2/1). Yield=70%.

reactant | malononitrile | 18.3 mmol, 1.21 g | C(CC#N)#N | C3H2N2
reactant | sodium hydride | 19.2 mmol, 0.77 g | [H-].[Na+]
reactant | benzyl isothiocyanate | 18.3 mmol, 2.73 g | C(C1=CC=CC=C1)N=C=S | C8H7NS
reactant | methyl iodide | 18.3 mmol, 2.60 g | CI | CH3I
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | water | 400 ml | O | H2O
product | 2-Benzylamino-2-methylthio-1,1-ethylenedicarbonitrile | Yield=70% | CSC(C(C#N)C#N)NCC1=CC=CC=C1 | C12H13N3S
